US07423060B2
Step 2: 5-[1-(4-Nitro-phenyl)-ethylcarbamoyl]-thiophene-2-carboxylic acid methyl ester
The title compound was prepared in an analogous manner to that described in example 1, step 3 from 1-(4-nitro-phenyl)-ethylamine and thiophene-2,5-dicarboxylic acid monomethyl ester.

reactant | 1-(4-nitro-phenyl)-ethylamine | [N+](=O)([O-])C1=CC=C(C=C1)C(C)N | C8H10N2O2
reactant | thiophene-2,5-dicarboxylic acid monomethyl ester | COC(=O)C=1SC(=CC1)C(=O)O | C7H6O4S
product | 5-[1-(4-Nitro-phenyl)-ethylcarbamoyl]-thiophene-2-carboxylic acid methyl ester | COC(=O)C=1SC(=CC1)C(NC(C)C1=CC=C(C=C1)[N+](=O)[O-])=O | C15H14N2O5S
